US05849779
To a solution of ethyl (ethoxymethylene)cyanoacetate (10 g) in ethanol (100 ml), was added hydrazine monohydrate (2.87 ml), and the resulted mixture was refluxed for 12 h. The reaction mixture was evaporated under reduced pressure followed by addition of ether (50 ml), and 3-amino-4-ethoxycarbonylpyrazole was obtained as pale yellow crystals (7.68 g, yield 84%).

reactant | ethyl (ethoxymethylene)cyanoacetate | 10 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
reactant | hydrazine monohydrate | 2.87 ml | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-amino-4-ethoxycarbonylpyrazole | NC1=NNC=C1C(=O)OCC | C6H9N3O2
